US08198466B2
Preparation of [7-Hydroxy-6-methoxy-3-(3,4,5-trimethoxy-benzoyl)-benzofuran-2-ylamino]-acetic acid methyl ester
[7-hydroxy-6-methoxy-3-(3,4,5-trimethoxy-benzoyl)-benzofuran-2-ylamino]acetic acid (30 mg, 0.07 mmol) was dissolved in dry methanol (5 mL) and trimethylsilyl chloride (100 μL) was added to it. The reaction was stirred at room temperature for 6 hours (monitored by tlc). Solvent was distilled under vacuum and the crude was purified over silica gel plate to afford the title compound as yellow solid (23 mg, 79%); 1H NMR (300 MHz, CDCl3) δ 9.11(b, 1H, NH), 6.97(s, 2H, benzoyl Hs), 6.62(d, 1H, J=8.56 Hz), 6.51(d, 1H, J=8.49 Hz), 4.42(d, 1H, J=6.09 Hz), 3.91(s, 3H, OMe), 3.86(s, 3H, OMe), 3.84(s, 6H, 2×OMe), 3.81(s, 3H, OMe).

reactant | [7-hydroxy-6-methoxy-3-(3,4,5-trimethoxy-benzoyl)-benzofuran-2-ylamino]acetic acid | 0.07 mmol, 30 mg | OC1=C(C=CC=2C(=C(OC21)NCC(=O)O)C(C2=CC(=C(C(=C2)OC)OC)OC)=O)OC | C21H21NO9
reactant | trimethylsilyl chloride | 100 μL | C[Si](C)(C)Cl | C3H9ClSi
solvent | methanol | 5 mL | CO | CH4O
product | [7-Hydroxy-6-methoxy-3-(3,4,5-trimethoxy-benzoyl)-benzofuran-2-ylamino]-acetic acid methyl ester | 23 mg, 79% | COC(CNC=1OC2=C(C1C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C=CC(=C2O)OC)=O | C22H23NO9
